Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
s/p fall downstairs
 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
___ with PMH of cluster headaches on Fioricet, laryngeal Ca s/p 
chemorads, presenting as transfer from ___ following fall 
of unknown circumstances. He was cooking and opened door that 
goes downstairs, but he is unclear about sequence of events 
(Reports loss of consciousness). Patient recounts that his
girlfriend told him that he was at bottom of the stairs 
screaming. First thing that he remembers after the fall was 
waking up in the couch and falling asleep shortly after. He woke 
up the following day (___) in pain which prompted visit to 
ED. Reports pain from shoulder to hip and left chest. Very tired 
over
past couple of weeks. Not sleeping for the last two days. Does 
not report any stressors. No loss of bladder or bowel function. 
Denies dizziness. Never had this happen before. Does not drink 
EtOH or use drugs. No change in his health recently, no ill 
contacts, headache/neck stiffness/fevers prior to event. No 
known history of heart or lung problems.
 
Past Medical History:
Past Medical History:
- Cluster headaches (sees doctor at ___
- ___ tumor treated with radiation and chemo (Dr. ___ at 
___

Past Surgical History:
- Tonsillectomy
 
Social History:
___
Family History:
- No family history of headaches, seizures, heart disease, 
hypertension.  
 
Physical Exam:
Admission Physical Exam:
Physical Exam:
Vitals: ___ T:98.0 HR:70 BP:147/75 RR:20 O2Sat: 100% RA
(now sattign high 90's with NC 2L) 
GEN: A&Ox3, NAD
HEENT: Abrasions on left side of scalp. No hemotympanum or
otorrhea. No rhinorrhea. Oropharynx without erythema or blood.
Pupils 4mm bilaterally, PERLA, EOMI. Sclera anicteric,
non-injected. Mucus membranes moist.
Neck: full ROM, non-tender
CHEST: Ecchymosis on L shoulder. 
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
Back: no spinal tenderness, no step-offs. Tender L back
mid-thorax, no ecchymoses or deformities
ABD: Soft, nondistended, mild tenderness L flank, no rebound or
guarding, no palpable masses
Ext: No ___ edema, ___ warm and well perfused. ___ and DP 2+.
Neuro: CNII-XII intact. ___ muscle strength throughout. Intact
sensation. 

Discharge Physical Exam:
VS: T: 97.9 PO BP: 149/76 L Lying HR: 80 RR: 18 O2: 95% Ra 
GEN: A+Ox3, NAD
HEENT: MMM
CV: RRR 
PULM: CTA b/l 
ABD: soft, non-distended, non-tender to palpation
EXT: LUE in sling, wwp 
 
Pertinent Results:
IMAGING:

eFAST by ED negative

CT Chest (OSH):
IMPRESSION:
1. Multiple left rib fractures.
2. Fracture left acromion.
3. Left lower lobe pulmonary contusion with a small loculated 
air
collection between the lung and the pleural fluid question
pulmonary laceration.
4. Small left effusion.

CT Abdomen/Pelvis (OSH):
IMPRESSION:
1. No acute intra-abdominal process.

CT C spine (OSH):
IMPRESSION:
1. No acute fracture.
2. Degenerative changes.
 
CT Head (OSH):
IMPRESSION:
1. No acute intracranial process.
2. Opacified left mastoid air cells.
Reason for Study: fall down 20 stairs, pain all over, LOC

Chest Portable AP (OSH)
CONCLUSION:
1. Airspace opacity of the retrocardiac LLL. Considerations
include
pneumonia or lung contusion or perhaps atelectasis. Left lateral
costophrenic sulcus is sharp.
2. No acute rib fracture or pneumothorax.

___: CXR:
No marked change since most recent prior radiograph.

___: CAROTID SERIES COMPLETE:
Right ICA <40% stenosis. 
Left ICA <40% stenosis. 

___: CT Torso:
1. No acute intra-abdominal injury. 
2. Left lower rib fractures visualized involving the fifth 
through ninth ribs with some displacement at the eighth and 
ninth rib fractures.  More superior ribs are not included on 
this CT of the abdomen and pelvis. 
3. Small left pleural effusion with adjacent consolidation 
worrisome for 
underlying contusion.  Component of atelectasis or aspiration 
more inferiorly are possible.  Rounded lucency at the periphery 
at this region of consolidation could represent small 
pneumothorax or pulmonary laceration. 

LABS:

___ 08:39AM   ___ PTT-28.7 ___
___ 01:19AM   GLUCOSE-111* UREA N-7 CREAT-0.7 SODIUM-141 
POTASSIUM-5.0 CHLORIDE-105 TOTAL CO2-25 ANION GAP-11
___ 01:19AM   WBC-9.6 RBC-3.97* HGB-12.1* HCT-36.2* MCV-91 
MCH-30.5 MCHC-33.4 RDW-12.6 RDWSD-42.0
___ 01:19AM   NEUTS-71.9* LYMPHS-17.3* MONOS-9.2 EOS-0.7* 
BASOS-0.4 IM ___ AbsNeut-6.91* AbsLymp-1.66 AbsMono-0.88* 
AbsEos-0.07 AbsBaso-0.04
___ 01:19AM   PLT COUNT-292
 
Brief Hospital Course:
Mr. ___ is a ___ y/o M with PMH of cluster headaches on 
Fioricet, laryngeal Ca s/p chemorads, who was transferred to 
___ from ___ s/p fall of unknown circumstances, 
+LOC.  At OSH he was found to have left ___ rib fractures, a 
small left pleural effusion, left lung laceration vs. small ptx 
with associated
contusion and a left non-displaced acromion fracture. The 
patient was admitted to ACS for IS/pulmonary toilet and pain 
control.  Orthopedic Surgery was consulted for the left acromion 
fracture and this injury did not require surgical intervention. 
The patient was placed in a sling and will follow-up with 
Orthopedic surgery in outpatient clinic.  

A Carotid series and ECHO were obtained for syncopal workup.  
ECHO and Carotid series were normal.  ECHO showed mild symmetric 
left ventricular hypertrophy with preserved global and regional 
biventricular systolic function.  Carotid series showed left and 
right ICA <40% stenosis.

The patient was alert and oriented throughout hospitalization; 
pain was initially managed with PCA dilaudid which was later 
d/c'd and he was transitioned to acetaminopehn and oxycodone.  
He remained stable from a cardiovascular and pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. 
The patient tolerated a regular diet and intake and output were 
closely monitored.
The patient's fever curves were closely watched for signs of 
infection, of which there were none. The patient's blood counts 
were closely watched for signs of bleeding, of which there were 
none. The patient received subcutaneous heparin and ___ dyne 
boots were used during this stay and was encouraged to get up 
and ambulate as early as possible.

The patient worked with Occupational Therapy and recommended 
discharge home with outpatient f/u in cognitive neurology. 

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
Fioricet q6h prn headache 
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q8H:PRN Pain - Mild  
2.  Bisacodyl 10 mg PO/PR DAILY:PRN constipation   
3.  Docusate Sodium 100 mg PO BID 
hold for loose stool  
4.  Milk of Magnesia 30 mL PO Q6H:PRN constipation   
5.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 10 mg ___ tablet(s) by mouth every four (4) 
hours Disp #*30 Tablet Refills:*0 
6.  Polyethylene Glycol 17 g PO DAILY:PRN constipation   
7.  Senna 8.6 mg PO BID:PRN Constipation   
8.  Acetaminophen-Caff-Butalbital ___ TAB PO Q8H:PRN Headache  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-Fall
-Left ___ rib fractures
-Small left lung pneumothorax with associated contusion
-Left lung laceration 
-Small left pleural effusion
-Left non-displaced acromion fracture 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ in 
___ after a fall.  You were found to have left-sided rib 
fractures, a small left lung puncture with associated bruising, 
possible laceration of the lung, and a small amount of fluid 
within the space surrounding the lung. You also have a left 
acromion (part of the shoulder blade) fracture.  You were 
admitted for pain control and to monitor your breathing.  The 
Orthopedic Surgery service evaluated your acromion fracture and 
no surgery was recommended.  It is recommended you wear a sling 
and follow-up with Orthopedic Surgery at your scheduled 
follow-up appointment. Your left lung injury and rib fractures 
will heal on their own.  Please obtain a chest x-ray prior to 
your follow-up appointment in the Acute Care Surgery clinic. 

To determine if your fall was caused by a syncopal event 
(fainting due to decreased blood flow to the head), you had a 
ultrasound of your carotid arteries (neck) and of your heart 
which were unremarkable. You worked with Occupational Therapy 
and it is recommended you follow-up in the outpatient Cognitive 
Neurology clinic as you had loss of consciousness from your 
fall.     

You are now ready to be discharged home to continue your 
recovery.  Please note the following discharge instructions:

Rib Fractures:

* Your injury caused left-sided rib fractures which can cause 
severe pain and subsequently cause you to take shallow breaths 
because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

General Discharge Instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.
Avoid driving or operating heavy machinery while taking pain 
medications.

Return to the Emergency Department or see your own doctor right 
away if any problems develop, including the following:
• Persistent nausea or vomiting.
• Increasing confusion, drowsiness or any change in alertness.
• Loss of memory.
• Dizziness or fainting.
• Trouble walking or staggering.
• Worsening of headache or headache feels different.
• Trouble speaking or slurred speech.
• Convulsions or seizures. These are twitching or jerking 
movements of the eyes, arms, legs or body.
• A change in the size of one pupil (black part of your eye) as 
compared to the other eye.
• Weakness or numbness of an arm or leg.
• Stiff neck or fever.
• Blurry vision, double vision or other problems with your 
eyesight.
• Bleeding or clear liquid drainage from your ears or nose.
• Very sleepy (more than expected) or hard to wake up.
• Unusual sounds in the ear.
• Any new or increased symptoms

 
Followup Instructions:
___